US07320986B2
5-(tetrahydro-2H-pyran-4-yloxy)indan-1-one
5-Hydroxy-1-indanone (0.636 g, 4.30 mmol), tetrahydro-pyran-4ol (1.22 mL, 12.80 mmol), PPh3-polymer supported (2.864 g, 8.59 mmol), DBAD (1.978 g, 8.59 mmol) and THF (40 mL) were mixed, and shaken overnight. The mixture was filtered, and washed with THF (10 mL×3). The filtrate was concentrated. The residue was purified by flash chromatography to give the above intermediate (0.85 g, 85%). MS (APCI) m/z 233 (M+H)+; 1H NMR (300 MHz, CD3OD) δ ppm 1.79-1.89 (m, 2H) 2.01-2.12 (m, 2H) 2.62-2.69 (m, 2H) 3.07-3.15 (m, 2H) 3.85-4.00 (m, 4H) 4.75 (m, 1H) 6.97 (dd, J=8.65, 2.20 Hz, 1H) 7.08 (s, 1H) 7.63 (d, J=8.48 Hz, 1H).

reactant | 5-Hydroxy-1-indanone | 4.30 mmol, 0.636 g | OC=1C=C2CCC(C2=CC1)=O | C9H8O2
reactant | tetrahydro-pyran-4ol | 12.80 mmol, 1.22 mL | O1CCC(CC1)O | C5H10O2
reactant | PPh3 | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DBAD | 8.59 mmol, 1.978 g | C1=CC=C(C=C1)COC(=O)/N=N/C(=O)OCC2=CC=CC=C2 | C16H14N2O4
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 5-(tetrahydro-2H-pyran-4-yloxy)indan-1-one | 0.85 g, 85% | O1CCC(CC1)OC=1C=C2CCC(C2=CC1)=O | C14H16O3
